US06320050B1
A solution of 2-[2-(4-chloro-phenyl)3-cyclopentyl-propionylamino]-thiazole-4-carboxylic acid ethyl ester (prepared in Example 31(B)(a), 105 mg, 0.25 mmol) in methanol (10 mL) was treated with a catalytic amount of sulfuric acid. The reaction mixture was refluxed for 68 h. The reaction was concentrated in vacuo. High pressure liquid chromatography (Chromegasphere SI-60, 10 μm, 60 Å, 25 cm×23 cm ID, 75/25 heptane/ethyl acetate) afforded 2-[2-(4-chloro-phenyl)-3-cyclopentyl-propionylamino]-thiazole4-carboxylic acid methyl ester (41.3 mg, 40.7%) as a white solid: mp 156-157° C.; EI-HRMS m/e calcd for C19H21ClN2O3S (M+) 392.0961, found 392.0956.

reactant | 2-[2-(4-chloro-phenyl)3-cyclopentyl-propionylamino]-thiazole-4-carboxylic acid ethyl ester | 0.25 mmol, 105 mg | C(C)OC(=O)C=1N=C(SC1)NC(C(CC1CCCC1)C1=CC=C(C=C1)Cl)=O | C20H23ClN2O3S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 10 mL | CO | CH4O
product | 2-[2-(4-chloro-phenyl)-3-cyclopentyl-propionylamino]-thiazole4-carboxylic acid methyl ester | 41.3 mg, 40.7% | COC(=O)C=1N=C(SC1)NC(C(CC1CCCC1)C1=CC=C(C=C1)Cl)=O | C19H21ClN2O3S
